US07888376B2
To a solution of 1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethanamine (0.02 g, 0.051 mmol) in dichloroethane (0.5 mL) in a two dram vial was added 4-methyl-1H-imidazole-5-carbaldehyde (6 mg, 0.051 mmol), followed by a drop of acetic acid. The reaction mixture was shaken for 20 minutes at room temperature and then NaBH(OAc)3 was added (12 mg, 0.056 mmol). The reaction was stirred at room temperature overnight. The solvents were removed and the residue was purified by preparative HPLC (phenominex C18 column, 21×100 mm, 5μ) using MeOH/H2O (with 0.1% TFA) to give 1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-N-((4-methyl-1H-imidazol-5-yl)methyl)-2-phenylethanamine as a white solid (23.4 mg, 76% yield). LCMS: 3.6 min [M+1] 489.2 (4 min gradient, MeOH/H2O 0.1% TFA); 1H NMR (400 MHz, CDCl3) δ ppm 2.27 (s, 3 H), 3.45-3.52 (m, 1 H), 3.88-3.99 (m, 2 H), 4.01-4.07 (m, 1 H), 6.64 (d, J=7.09 Hz, 2 H), 7.02 (d, J=8.56 Hz, 1 H), 7.10 (t, J=7.46 Hz, 2 H), 7.18 (t, J=7.46 Hz, 1 H), 7.49 (d, J=7.58 Hz, 1 H), 7.61 (d, J=9.54 Hz, 1 H), 7.69 (s, 1 H), 7.76 (dd, J=8.56, 2.45 Hz, 1 H), 8.28 (s, 1 H), 8.60 (d, J=1.96 Hz, 1 H).

reactant | 1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethanamine | 0.051 mmol, 0.02 g | ClC=1C=CC(=NC1)C(CC1=CC=CC=C1)(N)C1=CC(=CC(=C1)C(F)(F)F)F | C20H15ClF4N2
reactant | 4-methyl-1H-imidazole-5-carbaldehyde | 0.051 mmol, 6 mg | CC=1N=CNC1C=O | C5H6N2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 0.5 mL | ClC(C)Cl | C2H4Cl2
product | 1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-N-((4-methyl-1H-imidazol-5-yl)methyl)-2-phenylethanamine | 23.4 mg, 76% yield | ClC=1C=CC(=NC1)C(CC1=CC=CC=C1)(NCC1=C(N=CN1)C)C1=CC(=CC(=C1)C(F)(F)F)F | C25H21ClF4N4
